US07501411B2
Step 2: Acetic acid 4-bromopyridin-2-ylmethyl ester
To a solution of 4-bromo-2-methylpyridine-1-oxide (4.00 g, 21.40 mmol) in DCM (20 mL) is added acetic anhydride (6 mL). The mixture is stirred at room temperature for 1 hour and then heated at reflux overnight. The solvent is removed under vacuum and the crude product is filtered through a silica plug, eluting with DCM to afford the title compound as an orange oil (815 mg).

reactant | 4-bromo-2-methylpyridine-1-oxide | 21.40 mmol, 4.00 g | BrC1=CC(=[N+](C=C1)[O-])C | C6H6BrNO
reactant | acetic anhydride | 6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-bromopyridin-2-ylmethyl ester | 815 mg | BrC1=CC(=NC=C1)COC(C)=O | C8H8BrNO2
